US07022725B2
To a solution of methyl 3-[5-(4-methylphenyl)-4-isoxazolyl]propionate (2.00 g) in tetrahydrofuran (50 ml) was gently added diisobutylaluminum hydride (0.95 M hexane solution, 21.5 ml) at 0° C., and the mixture was stirred at room temperature for 1 hr. Sodium sulfate 10 hydrate (6.57 g) was added to the reaction mixture and the mixture was stirred for 2 hr, after which an insoluble material was filtered off. The filtrate was concentrated and the residue was subjected to silica gel column chromatography, and 3-[5-(4-methylphenyl)-4-isoxazolyl]propan-1-ol (1.53 g, yield 86%) was obtained as a colorless oil from a fraction eluted with ethyl acetate-hexane (1:1, volume ratio). NMR (CDCl3) δ: 1.25–1.35 (1H, m), 1.8–2.0 (2H, m), 2.41 (3H, s), 2.7–2.85 (2H, m), 3.65–3.8 (2H, m), 7.29 (2H, d, J=8 Hz), 7.62 (2H, d, J=8 Hz), 8.19 (1H, s).

reactant | methyl 3-[5-(4-methylphenyl)-4-isoxazolyl]propionate | 2.00 g | CC1=CC=C(C=C1)C1=C(C=NO1)CCC(=O)OC | C14H15NO3
reactant | diisobutylaluminum hydride | 0.95 M, 21.5 ml | [H-].C(C(C)C)[Al+]CC(C)C
reactant | Sodium sulfate 10 hydrate | 6.57 g | O.O.O.O.O.O.O.O.O.O.[O-]S(=O)(=O)[O-].[Na+].[Na+]
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 3-[5-(4-methylphenyl)-4-isoxazolyl]propan-1-ol | 1.53 g, yield 86% | CC1=CC=C(C=C1)C1=C(C=NO1)CCCO | C13H15NO2
